US07498346B2
Using General Procedure E, (R)-{3-[4-(4-methoxy-phenylamino)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester (0.681 g, 1.81 mmol), 6-bromomethyl-pyridine-2-carbonitrile (0.535 g, 2.71 mmol) and DIPEA (630 μL, 3.62 mmol) in CH3CN (20 mL) at 55° C. for 16 h gave the crude product as a pale brown oil. Purification by column chromatography on silica gel (CH2Cl2:MeOH:, 95:5, v/v) afforded (R)-(3-{4-[(6-cyano-pyridin-2-ylmethyl)-(4-methoxy-phenyl)-amino]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester (0.696 g, 78%) as a yellow crystalline solid. 1H NMR (CDCl3) δ 0.95 (d, 3H, J=6.0 Hz), 1.40 (s+m, 11H), 1.65 (m, 4H), 1.86 (m, 2H), 2.13 (br t, 1H), 2.54 (br t, 1H), 2.73-2.86 (m, 3H), 3.06 (m, 1H), 3.31 (m, 1H), 3.54 (m, 1H), 3.73 (s, 3H), 4.50 (s, 2H), 6.06 (br s, 1H), 6.68 (d, 2H, J=9.0 Hz), 6.76 (d, 2H, J=9.0 Hz), 7.52 (d, 1H, J=6.0 Hz), 7.54 (d, 1H, J=6.0 Hz), 7.70 (t, 1H, J=6.0 Hz).

reactant | (R)-{3-[4-(4-methoxy-phenylamino)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester | 1.81 mmol, 0.681 g | C(C)(C)(C)OC(NCC[C@@H](C)N1CCC(CC1)NC1=CC=C(C=C1)OC)=O | C21H35N3O3
reactant | 6-bromomethyl-pyridine-2-carbonitrile | 2.71 mmol, 0.535 g | BrCC1=CC=CC(=N1)C#N | C7H5BrN2
reactant | DIPEA | 3.62 mmol, 630 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | (R)-(3-{4-[(6-cyano-pyridin-2-ylmethyl)-(4-methoxy-phenyl)-amino]-piperidin-1-yl}-butyl)-carbamic acid tert-butyl ester | 0.696 g, 78% | C(C)(C)(C)OC(NCC[C@@H](C)N1CCC(CC1)N(C1=CC=C(C=C1)OC)CC1=NC(=CC=C1)C#N)=O | C28H39N5O3
